US05658908
A solution of 4-bromothioanisole (10.0 g, 49.0 mmol) in 60 mL of anhydrous tetrahydrofuran was cooled to -78° C. under nitrogen and 32 mL (49 mmol) of 1.55M n-butyllithium in hexane was was added dropwise at a rate to maintain temperature below -60° C. The reaction was stirred an additional 15 minutes after addition was complete, and a solution of crude 3-(tert-butyldimethylsilyloxy)benzaldehyde (11.6 g, 49 mmol) in 50 mL of dry tetrahydrofuran was added dropwise over 20 minutes. The reaction was stirred another 30 minutes and quenched at -78° C. with saturated aqueous ammonium chloride. After warming to room temperature, the reaction was diluted with 200 mL of diethyl ether and washed with 50 mL of water and 50 mL of saturated aqueous sodium chloride. After drying over sodium sulfate, the solvent was removed to give 17.5 g (99%) of crude (4-methylthio-phenyl)(3-tert-butyldimethylsilyloxyphenyl)methanol as an orange oil.

reactant | 4-bromothioanisole | 49.0 mmol, 10.0 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | n-butyllithium | 49 mmol, 1.55M, 32 mL | C(CCC)[Li]
reactant | 3-(tert-butyldimethylsilyloxy)benzaldehyde | 49 mmol, 11.6 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=O)C=CC1 | C13H20O2Si
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (4-methylthio-phenyl)(3-tert-butyldimethylsilyloxyphenyl)methanol | 17.5 g, 99% | CSC1=CC=C(C=C1)C(O)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C20H28O2SSi
